US05935993
(E)-2-(Benzylaminosulfonyl)-3-(3,5-diisopropyl-4-hydroxyphenyl)acrylonitrile:
The titled compound was prepared with 3,5-diisopropyl-4-hydroxybenzaldehyde and N-benzyl cyanomethylsulfonamide under the similar conditions as described for EXAMPLE 12 (part B).

reactant | 3,5-diisopropyl-4-hydroxybenzaldehyde | C(C)(C)C=1C=C(C=O)C=C(C1O)C(C)C | C13H18O2
reactant | N-benzyl cyanomethylsulfonamide | C(C1=CC=CC=C1)NS(=O)(=O)CC#N | C9H10N2O2S
product | (E)-2-(Benzylaminosulfonyl)-3-(3,5-diisopropyl-4-hydroxyphenyl)acrylonitrile | C(C1=CC=CC=C1)NS(=O)(=O)\C(\C#N)=C\C1=CC(=C(C(=C1)C(C)C)O)C(C)C | C22H26N2O3S
